US07893055B2
1-(2-Chloroethoxy)cyclobutanecarbonitrile.
Zinc chloride (36.03 g, 264 mmol) was fused using a propane torch while under vacuum. The molten salt was cooled and the evacuated flask was flushed with nitrogen. The flask was loaded with 1-hydroxycyclobutanecarbonitrile (15.10 g,) and 2-chloroethanol (17.7 g, 218 mmol) and stirred with heating (90° C.) for 20 hours. The reaction mixture was diluted with water (200 mL) and extracted with ethyl acetate (1×150 mL, 4×100 mL). The combined organic layers were dried (sodium sulfate), filtered, and concentrated to an oil in-vacuo. The crude product was purified by vacuum distillation (b.p.12 85° C.) to give title compound (5.00 g, 31.3 mmol, 16.4% over two steps) as a clear liquid. 1H NMR (500 MHz, CDCl3) δ: 3.75 (2H, t, J=5.5 Hz), 3.65 (2H, t, J=5.6 Hz), 2.52-2.61 (2H, m), 2.31-2.43 (2H, m), 1.91-2.06 (2H, m).

reactant | propane | CCC | C3H8
reactant | 1-hydroxycyclobutanecarbonitrile | 15.10 g | OC1(CCC1)C#N | C5H7NO
reactant | 2-chloroethanol | 218 mmol, 17.7 g | ClCCO | C2H5ClO
solvent | water | 200 mL | O | H2O
catalyst | Zinc chloride | 264 mmol, 36.03 g | [Cl-].[Zn+2].[Cl-]
product | 1-(2-Chloroethoxy)cyclobutanecarbonitrile | 31.3 mmol, 5.00 g, 16.4% | ClCCOC1(CCC1)C#N | C7H10ClNO
